US04307098
To an ice cold solution of 2.40 g of sodium hydroxide in 70 ml of water is added 14.46 g (0.06 mol) of 5-cyano-1-(2,6-dimethylphenyl)uracil. Then 100 ml of dichloromethane is added. To this mixture, at 5°, is added 6.6 ml (0.06 mol) of trichloromethane sulphenyl chloride in two volumes of dichloromethane. The mixture is stirred approximately 22 min at 5°. Then the phases are separated and the organic phase is washed with ice cold water. The dichloromethane solution is dried over magnesium sulphate, filtered and stripped. The residue is triturated with ether/petane, filtered and dried to obtain the crude product, which is then purified by crystallisation to yield 5-cyano-1-(2,6-dimethylphenyl)-3-trichloromethanesulphenyluracil, m.p. 223°-225°.

reactant | sodium hydroxide | 2.40 g | [OH-].[Na+]
reactant | 5-cyano-1-(2,6-dimethylphenyl)uracil | 0.06 mol, 14.46 g | C(#N)C=1C(NC(N(C1)C1=C(C=CC=C1C)C)=O)=O | C13H11N3O2
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | trichloromethane sulphenyl chloride | 0.06 mol, 6.6 ml | ClC(SCl)(Cl)Cl | CCl4S
solvent | water | 70 ml | O | H2O
product | 5-cyano-1-(2,6-dimethylphenyl)-3-trichloromethanesulphenyluracil | C(#N)C=1C(N(C(N(C1)C1=C(C=CC=C1C)C)=O)SC(Cl)(Cl)Cl)=O | C14H10Cl3N3O2S
